US08334308B2
Step 1: 5-bromo-2-methoxyisonicotinaldehyde
To a solution of diisopropylamine in THF (0.1M) at 0° C. was added n-BuLi (1.1 eq.). The solution was stirred for 30 min and then was cannulated in a solution of commercially available 5-bromo-2-methoxypyridine in THF (0.1M) at −78° C. The resulting solution was stirred at −78° C. for 30 min then DMF (1.5 eq.) was added. Final reaction mixture was allowed to warm to 0° C. before it was quenched with saturated aqueous NH4Cl and then extracted with EtOAc. The organic extract was washed with saturated NaHCO3, brine, dried over MgSO4, filtered and concentrated. Purification by column chromatography on silica gel (Combi-Flash by ISCO), eluting with Hex/EtOAc (0 to 50% in 30 min) afforded the desired compound as a white solid.

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 1.1 eq. | [Li]CCCC
reactant | 5-bromo-2-methoxypyridine | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | DMF | 1.5 eq. | CN(C)C=O | C3H7NO
solvent | THF | 0.1M | C1CCOC1 | C4H8O
solvent | THF | 0.1M | C1CCOC1 | C4H8O
product | 5-bromo-2-methoxyisonicotinaldehyde | BrC1=CN=C(C=C1C=O)OC | C7H6BrNO2
